US07645789B2
To a solution of 2-bromo-1-fluoro-3-nitrobenzene (1.0 g, 5.0 mmol) in CH3OH (50 mL) was added NiCl2 (2.2 g 10 mmol) and NaBH4 (0.50 g 14 mmol) at 0° C. After the addition, the mixture was stirred for 5 min. Water (20 mL) was added and the mixture was extracted with EtOAc (20 mL×3). The organic layers were dried over anhydrous Na2SO4 and evaporated under vacuum to give 2-bromo-3-fluoroaniline (600 mg, 70%). 1H NMR (400 MHz, CDCl3) δ 7.07-7.02 (m, 1H), 6.55-6.49 (m, 1H), 4.22 (br s, 2H).

reactant | 2-bromo-1-fluoro-3-nitrobenzene | 5.0 mmol, 1.0 g | BrC1=C(C=CC=C1[N+](=O)[O-])F | C6H3BrFNO2
reactant | NaBH4 | 14 mmol, 0.50 g | [BH4-].[Na+]
reactant | Water | 20 mL | O | H2O
solvent | CH3OH | 50 mL | CO | CH4O
catalyst | NiCl2 | 10 mmol, 2.2 g | Cl[Ni]Cl
product | 2-bromo-3-fluoroaniline | 600 mg, 70% | BrC1=C(N)C=CC=C1F | C6H5BrFN
